US04971993
N-ethanesulfonyl-L-alanyl-L-proline t-butylester was dissolved in 4.5N hydrochloric acid in dioxane (15 ml) solution and stirred for 3 hours. The solvent was distilled 1 off under reduced pressure and the oily residue thus Obtained (0.72 g) was dissolved in 0.5M aqueous potassium bicarbonate (5.2 ml). The solution was washed with diethyl ether and the water layer was freeze-dried to give N-ethanesulfonyl-L-alanyl-L-proline potassium salt(yield: 0.75 g, 79.3%).

reactant | N-ethanesulfonyl-L-alanyl-L-proline t-butylester | C(C)(C)(C)OC([C@H]1N(CCC1)C([C@@H](NS(=O)(=O)CC)C)=O)=O | C14H26N2O5S
reactant | potassium bicarbonate | 0.5M, 5.2 ml | C([O-])(O)=O.[K+]
solvent | hydrochloric acid | 4.5N | Cl | ClH
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | N-ethanesulfonyl-L-alanyl-L-proline potassium salt | yield: 0.75 g, 79.3% | [K+].C(C)S(=O)(=O)N[C@@H](C)C(=O)N1[C@H](C(=O)[O-])CCC1 | InChI=1S/C10H18N2O5S.K/c1-3-18(16,17)11-7(2)9(13)12-6-4-5-8(12)10(14)15;/h7-8,11H,3-6H2,1-2H3,(H,14,15);/q;+1/p-1/t7-,8-;/m0./s1
